US05521170
To a suspension of sodium hydride (60% oil suspension, 154 mg) in tetrahydrofuran (4 ml) was added a solution of 5-(4-nitrobenzoyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (800 mg) in tetrahydrofuran (6 ml) at 0° C. and the mixture was stirred at 0° C. for 5 minutes. To the mixture was added ethyl bromoacetate (472 mg) and then the mixture was stirred at ambient temperature overnight. The reaction was quenched with saturated ammonium chloride aqueous solution and the resultant mixture was diluted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate aqueous solution and brine, and then it was dried over magnesium sulfate. Filtration and evaporation afforded 1-ethoxycarbonylmethyl-5-(4-nitrobenzoyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (691 mg) as a slightly yellow amorphous.

reactant | sodium hydride | 154 mg | [H-].[Na+]
reactant | 5-(4-nitrobenzoyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 800 mg | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC(NC3=C2C=CC=C3)=O)C=C1 | C16H13N3O4
reactant | ethyl bromoacetate | 472 mg | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 1-ethoxycarbonylmethyl-5-(4-nitrobenzoyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 691 mg | C(C)OC(=O)CN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)=O | C20H19N3O6
